US06953792B2
(RS)-1-[3,5-Bis(trifluoromethyl)-α-{[2-(trimethylsilyl)ethoxy]methoxymethyl}benzenemethanol
N-Ethyl-N,N-diisopropylamine (465 μl, 2.67 mmol) was added over 2 minutes, to a solution of (RS)-1-[3,5-bis(trifluoromethyl)phenyl]-1,2-ethanediol (Description 3, 488 mg, 1.78 mmol) and [2-(chloromethoxy)ethyl]trimethylsilane (315 μl, 1.78 mmol) in dichloromethane (3 mL) and the mixture was stirred at room temperature for 4 hours, then at 50° C. for 1 hour. The mixture was cooled and dichloromethane (20 mL) and water (20 mL) were added. The layers were separated and the aqueous layer was extracted with dichloromethane (10 mL). The combined organic fractions were dried (Na2SO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with isohexane/EtOAc (90:10) to give the title compound (352 mg, 49%). 1H NMR (400 MHz, CDCl3) δ 7.86 (2H, s), 7.79 (1H, s), 4.96 (1H, m), 4.73 (2H, s), 3.87 (1H, dd, J 11.1, 3.0 Hz), 3.73 (1H, br s), 3.61 (3H, m), 0.93 (2H, t, J 8.5 Hz), and 0.02 (9H, s).

reactant | N-Ethyl-N,N-diisopropylamine | 2.67 mmol, 465 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | (RS)-1-[3,5-bis(trifluoromethyl)phenyl]-1,2-ethanediol | 1.78 mmol, 488 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(CO)O)(F)F | C10H8F6O2
reactant | [2-(chloromethoxy)ethyl]trimethylsilane | 1.78 mmol, 315 μl | ClCOCC[Si](C)(C)C | C6H15ClOSi
reactant | water | 20 mL | O | H2O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3,5-Bis(trifluoromethyl)-α-{[2-(trimethylsilyl)ethoxy]methoxymethyl}benzenemethanol | 352 mg, 49% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(O)COCOCC[Si](C)(C)C)(F)F | C16H22F6O3Si
